US07842713B2
Preparation of Intermediate 376a: Dimethyl 5-(allyloxy)isophthalate
To a mixture of dimethyl 5-hydroxy-isophthalate (10 g, 47.577 mmol), Cs2CO3 (31 g, 95.2 mmol) in DMF was added allyl bromide (4.83 mL, 57.1 mmol) drop-wise. After stirring the mixture for 14 hours, the reaction was treated with water, extracted with EtOAc (2×). The combined organic extract was dried over sodium sulfate, filtered and evaporated to provide the desired product as white solid (12 g, 100% yield). The crude product was used without further purification. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 3.94 (s, 6 H) 4.56-4.71 (m, 2 H) 5.33 (dd, J=10.46, 1.41 Hz, 1 H) 5.39-5.53 (m, 1 H) 5.96-6.17 (m, 1 H) 7.76 (d, J=1.32 Hz, 2 H) 8.28 (t, J=1.41 Hz, 1 H); LC-MS: (ESI)+m/z=251.00 (M+1)+.

reactant | dimethyl 5-hydroxy-isophthalate | 47.577 mmol, 10 g | OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H10O5
reactant | Cs2CO3 | 95.2 mmol, 31 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | allyl bromide | 57.1 mmol, 4.83 mL | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | Dimethyl 5-(allyloxy)isophthalate | 12 g, 100% yield | C(C=C)OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C13H14O5
